US06884868B1
To a solution of 4-[4-(1,4-dioxa-8-azaspiro[4.5]decan-8-yl)phenyl]piperazine-1-carboxylic acid benzyl ester (30 g) in 1,4-dioxane (450 ml) was added 1N-hydrochloric acid (240 ml) at ambient temperature, and the mixture was stirred for 7 hours at 90° C. The reaction mixture was poured into water. The mixture was adjusted to pH 10-12 with 1N-sodium hydroxide (480 ml), and extracted with ethyl acetate. The organic layer was washed with water, brine, and dried, and evaporated under reduced pressure. The residue was chromatographed on a column of silica gel eluting with dichloromethane/methyl alcohol (50:1) to give 4-[4-(4-oxopiperidin-1-yl)phenyl]piperazine-1-carboxylic acid benzyl ester (21.22 g).

reactant | 4-[4-(1,4-dioxa-8-azaspiro[4.5]decan-8-yl)phenyl]piperazine-1-carboxylic acid benzyl ester | 30 g | C(C1=CC=CC=C1)OC(=O)N1CCN(CC1)C1=CC=C(C=C1)N1CCC2(OCCO2)CC1 | C25H31N3O4
reactant | hydrochloric acid | 240 ml | Cl | ClH
reactant | water | O | H2O
reactant | sodium hydroxide | 480 ml | [OH-].[Na+]
solvent | 1,4-dioxane | 450 ml | O1CCOCC1 | C4H8O2
product | 4-[4-(4-oxopiperidin-1-yl)phenyl]piperazine-1-carboxylic acid benzyl ester | 21.22 g | C(C1=CC=CC=C1)OC(=O)N1CCN(CC1)C1=CC=C(C=C1)N1CCC(CC1)=O | C23H27N3O3
